US04016170
A solution of 13.6 g. (0.1 mole) benzamide oxime in 625 milliliters dioxane is treated dropwise with 19.8 g. (0.1 mole) 2-chloroformyl benzoic acid methyl ester in 200 milliliters dioxane. This mixture is then refluxed for one hour, cooled slightly and treated with 3.3 milliliters of boron trifluoride etherate. The reaction mixture is refluxed for 18 hours. The resulting residue is cooled and filtered to remove a small amount of solid. The filtrate is evaporated in vacuo and the resulting oil is dissolved in ether, washed with water, 10 percent sodium carbonate, water and then brine. The ether solution is dried over anhydrous magnesium sulfate decolorized with charcoal filtered to remove the charcoal and the filtrate evaporated in vacuo to give o-(3-phenyl-1,2,4-oxadiazol-5-yl)-benzoic acid methyl ester.

reactant | benzamide oxime | 0.1 mole | C(C1=CC=CC=C1)(N)=NO | C7H8N2O
reactant | 2-chloroformyl benzoic acid methyl ester | 0.1 mole | COC(C1=C(C=CC=C1)C(=O)Cl)=O | C9H7ClO3
reactant | boron trifluoride etherate | 3.3 milliliters | B(F)(F)F.CCOCC
solvent | dioxane | 625 milliliters | O1CCOCC1 | C4H8O2
solvent | dioxane | 200 milliliters | O1CCOCC1 | C4H8O2
product | o-(3-phenyl-1,2,4-oxadiazol-5-yl)-benzoic acid methyl ester | COC(C1=C(C=CC=C1)C1=NC(=NO1)C1=CC=CC=C1)=O | C16H12N2O3
